US06034096
1-(3-Dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (EDCI) (22.2 g, 115 mmol) was added to a solution of 2,6-naphthalenedicarboxylic acid (25 g, 115 mmol) and hydroxybenzotriazole (15.6 g, 115 mmol) in dimethylformamide (1800 ml) and the mixture was stirred at room temperature for 2 hours. Diethyl amine (34.3 ml, 345 mmol) was added and the solution was stirred overnight at room temperature. The solvent was then evaporated under reduced pressure and the crude was treated with 1N HCl (500 ml) and ethyl acetate (500 ml), insoluble compounds were filtered off and the phases were separated. The organic phase was extracted with 5% sodium carbonate (3×200 ml) and the combined aqueous solutions were acidified with concentrated HCl and extracted with ethyl acetate (3×200 ml). The organic solution was then washed with 1N HCl (6×100 ml), dried over anhydrous sodium sulphate and the solvent was removed under reduced pressure yielding 18.5 g (Yield 60%) of pure 6-(diethylaminocarbonyl)-2-naphthalenecarboxylic acid; m.p.=122-124° C.

reactant | 1-(3-Dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 115 mmol, 22.2 g | Cl.CN(CCCN=C=NCC)C
reactant | 2,6-naphthalenedicarboxylic acid | 115 mmol, 25 g | C1=C(C=CC2=CC(=CC=C12)C(=O)O)C(=O)O | C12H8O4
reactant | hydroxybenzotriazole | 115 mmol, 15.6 g | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | Diethyl amine | 345 mmol, 34.3 ml | C(C)NCC | C4H11N
solvent | dimethylformamide | 1800 ml | CN(C=O)C | C3H7NO
product | 6-(diethylaminocarbonyl)-2-naphthalenecarboxylic acid | 18.5 g, Yield 60% | C(C)N(C(=O)C=1C=C2C=CC(=CC2=CC1)C(=O)O)CC | C16H17NO3
